US06110962
(R)-2-[2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxyl-succinic acid dimethyl ester
Diethylazodicarboxylate (0.254 mL, 1.61 mmol) was added dropwise to a stirred, room temperature suspension of 2,6-dibromo-4-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenol (0.600 g, 1.10 mmol), dimethyl (S)-(-)-malate (0.213 mL, 1.61 mmol) and triphenylphosphine (0.421 g, 1.61 mmol) in benzene (7.5 mL) under a dry nitrogen atmosphere. The solution was heated in an 79° C. oil bath for 23 h. Additional Dimethyl (S)-(-)-malate (0.043 mL, 0.321 mmol) and triphenylphosphine (0.084 g, 0.321 mmol) and diethylazodicarboxylate (0.050 mL, 0.321 mmol) were added and the reaction mixture was heated for an additional 10 hours. The reaction mixture was cooled to room temperature, diluted with methylene chloride combined with silica gel (20 mL) and concentrated. The silica adsorbate was flash chromatographed (92:8 petroleum ether:ethyl acetate) to provide the title compound as a white solid (0.389 g, 51%): mp 118-121° C.: NMR (CDCl3); δ8.36 (dd, J=8, 0.5 Hz, 1 H), 7.83 (dd, J=8, 0.5 Hz, 1 H), 7.68 (ddd, J=8, 7, 1 Hz, 1 H), 7.61 - 7.59 (m, 3 H), 7.55 -7.43 (m, 2 H), 7.26 - 7.21 (m, 1 H), 6.79 (d, J=8 Hz, 1 H), 5.46 (t, J=6 Hz, 1 H), 3.90 (s, 3 H), 3.77 (s, 3 H), 3.32 - 3.30 (m, 1 H); MS (EI): [M+], 3 bromine isotope pattern, 704 (5%), 706 (15%), 708 (15%), 710 (4%); Anal. Calc. for C28H19Br3O5S: C, 47.55, H, 2.71, N, 0.00. Found: C, 47.93, H, 2.65, N, 0.14.

reactant | Diethylazodicarboxylate | 1.61 mmol, 0.254 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | 2,6-dibromo-4-(6-bromo-benzo [b]naphtho[2,3-d]thiophen-11-yl)-phenol | 1.10 mmol, 0.600 g | BrC1=C(C(=CC(=C1)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)O | C22H11Br3OS
reactant | dimethyl (S)-(-)-malate | 1.61 mmol, 0.213 mL | C([C@@H](O)CC(=O)OC)(=O)OC | C6H10O5
reactant | triphenylphosphine | 1.61 mmol, 0.421 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Dimethyl (S)-(-)-malate | 0.321 mmol, 0.043 mL | C([C@@H](O)CC(=O)OC)(=O)OC | C6H10O5
reactant | triphenylphosphine | 0.321 mmol, 0.084 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 0.321 mmol, 0.050 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | benzene | 7.5 mL | C1=CC=CC=C1 | C6H6
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2,6-Dibromo-4-(6-bromo-benzo[b]naphtho[2,3-d]thiophen- 11-yl)-phenoxyl-succinic acid dimethyl ester | 0.389 g, 51% | COC(C(CC(=O)OC)OC1=C(C=C(C=C1Br)C1=C2C=CC=CC2=C(C2=C1C1=C(S2)C=CC=C1)Br)Br)=O | C28H19Br3O5S
